US07858640B2
[8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic Acid
A mixture of [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic acid methyl ester (0.034 g), methanol (8.0 mL), tetrahydrofuran (8.0 mL), water (5.0 mL) and lithium hydroxide (0.027 μg) was stirred at room temperature for 1 hour. The solution was acidified by the addition of 1.0 M aqueous hydrochloric acid and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure. Purification of the residue by preparative reverse-phase HPLC using a gradient of acetonitrile in water gave title compound as a yellow solid, 0.09 g.

reactant | [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic acid methyl ester | 0.034 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)OC(F)F)=O | C22H19Cl2F2NO6S
reactant | methanol | 8.0 mL | CO | CH4O
reactant | lithium hydroxide | 0.027 μg | [OH-].[Li+]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | water | 5.0 mL | O | H2O
solvent | tetrahydrofuran | 8.0 mL | O1CCCC1 | C4H8O
product | [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)OC(F)F)OCC(=O)O | C21H17Cl2F2NO6S
